US06359138B1
(RS)-4-Benzyl-1-(6-benzyloxy-chroman-2-ylmethyl)-piperidin-4-ol
(RS)-6-Benzyloxy-2-bromomethyl-chroman (0.52 g, 1.56 mmol) and 4-(benzyl)-piperidin-4-ol (0.66 g, 3.43 mmol) in toluene (20 ml) was refluxed for 18 hr under argon. After removal of the solvent the crude mixture was chromatographed over SiO2 (Merck 230-400 mesh) CH2Cl2—MeOH—NH4OH (100:5:0.25) to afford the title compound (RS)-4-benzyl-1-(6-benzyloxy-chroman-2-ylmethyl)-piperidin-4-ol as a yellow oil (0.6 g, 1.35 mmol, 86%), MS: m/e=444.5 (M+H+).

reactant | (RS)-6-Benzyloxy-2-bromomethyl-chroman | 1.56 mmol, 0.52 g | C(C1=CC=CC=C1)OC=1C=C2CCC(OC2=CC1)CBr | C17H17BrO2
reactant | 4-(benzyl)-piperidin-4-ol | 3.43 mmol, 0.66 g | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-4-benzyl-1-(6-benzyloxy-chroman-2-ylmethyl)-piperidin-4-ol | 1.35 mmol, 0.6 g, 86% | C(C1=CC=CC=C1)C1(CCN(CC1)CC1OC2=CC=C(C=C2CC1)OCC1=CC=CC=C1)O | C29H33NO3
